US08080541B2
cis-(2-Pyrrolidin-1-yl-cyclohexyl)-carbamic acid tert-butyl ester (1.8 g, 6.7 mmol) was dissolved in dioxane. 4H HCl in dioxane (17 mL, 67 mmol) were added and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated off. The residue was crystallized with ethanol and yielded cis-2-pyrrolidin-1-yl-cyclohexylamine dihydrochloride as a white solid (1.37 g, 85%), MS: m/e=169.2 [(M+H)+].

reactant | cis-(2-Pyrrolidin-1-yl-cyclohexyl)-carbamic acid tert-butyl ester | 6.7 mmol, 1.8 g | C(C)(C)(C)OC(N[C@H]1[C@H](CCCC1)N1CCCC1)=O | C15H28N2O2
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 67 mmol, 17 mL | O1CCOCC1 | C4H8O2
product | cis-2-pyrrolidin-1-yl-cyclohexylamine dihydrochloride | 1.37 g, 85% | Cl.Cl.N1(CCCC1)[C@@H]1[C@@H](CCCC1)N | InChI=1S/C10H20N2.2ClH/c11-9-5-1-2-6-10(9)12-7-3-4-8-12;;/h9-10H,1-8,11H2;2*1H/t9-,10+;;/m1../s1
